US07888364B2
Procedure B was performed using N-(4-Chloro-3-iodophenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide (88 mg, 0.2 mmol) with 2-pyridylzinc bromide (1 mL, 0.5 mmol, 0.5 M in THF). Purified by silica gel chromatography (10-80% ethyl acetate/hexanes) to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide as a yellow solid: TLC Rf=0.28 (35% ethyl acetate/hexanes); TLC Rf=0.28 (35% ethyl acetate/hexanes); 1H NMR (CDCl3, 400 MHz) 8.88 (bs, 1H), 8.41 (d, 1H), 7.96 (dd, 1H), 7.74 (m, 4H), 7.52 (d, 1H), 7.22 (m, 1H), 2.75 (s, 3H); MS (Q1) 392 (M)+. An alternative synthetic procedure is as follows. 75 g (435 mmol) of 2-chloro-5-nitroaniline was added to a solution of water (600 mL) and conc. sulfuric acid (60 mL) in a 3 L 3-neck flask equipped for mechanical stirring. The solution was cooled to 0° C. and a solution of sodium nitrite (34.2 g, 496 mmol) in water (130 mL) was added slowly. The mixture was stirred for ½ hr. and then a solution of potassium iodide (130 g, 783 mmol) in water (520 mL) was added dropwise over ½ hr keeping the temperature below 15° C. The solution was stirred for 2 hr, then extracted with EtOAc (3×500 mL). The combined organic extracts were washed with sat. Na2S2O3 (2×500 mL), dried (Na2SO4), and concentrated. The crude iodide was dissolved in hot iPrOH (500 mL) and hexanes (200 mL) were added. The reaction was allowed to cool with stirring and the product was collected by suction filtration after stirring at 0° C. for 2 hr yielding 90 g (318 mmol, 73%) 2-chloro-5-nitro-iodobenzene as a light tan crystalline solid. The 2-chloro-5-nitro-iodobenzene (5 g, 17.6 mmol) was dissolved in 5 mL DMA in an oven dried flask and a 0.5M solution of 2-pyridylzincbromide (53 mL, 26.5 mmol, 0.5 M in THF) was added. The solution was degassed with N2 for ½ hr., the PPh3 (0.185 g, 0.7 mmol) and Pd(PPh3)4 (0.825 g, 0.7 mmol) were added, rinsed in with several mLs THF and the solution was degassed for a further 10 min before heating to 60° C. under N2. The reaction was complete by TLC in ˜8 h, cooled to RT, and poured into a 1:1 mixture of EtOAc/2.5N NaOH (500 mL). This solution was stirred for 10 min, passed through a course fritted filter containing celite to remove the solid, and then extracted. The organics were washed with brine and concentrated to a brown solid. The combined aqueous layers were backextracted with Et2O (1×200 mL). This was used to suspend the crude product, which was extracted with 1N HCl (1×200 mL, 3×100 mL). The combined aqueous extracts were cooled to 0° C., diluted with EtOAc (250 mL), and made basic with ION NaOH (100 mL). This solution was separated, the aqueous layer extracted with EtOAc, and the combined organics were dried over Na2SO4 and charcoal with stirring. This solution was filtered through celite and concentrated to yield pure 4-chloro-3-(pyridin-2-yl)nitrobenzene (2.47 g, 10.5 mmol, 60% yield) which was used in the next reaction without further purification.

reactant | N-(4-Chloro-3-iodophenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide | 0.2 mmol, 88 mg | ClC1=C(C=C(C=C1)NC(=O)C=1C(=NC(=CC1)C(F)(F)F)C)I | C14H9ClF3IN2O
reactant | 2-pyridylzinc bromide | 0.5 mmol, 0.5 M, 1 mL | [Br-].N1=C(C=CC=C1)[Zn+]
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide | ClC1=C(C=C(C=C1)NC(=O)C=1C(=NC(=CC1)C(F)(F)F)C)C1=NC=CC=C1 | C19H13ClF3N3O
